US08580812B2
F. {4-[(Adamantan-1-ylmethyl)carbamoyl]pyrazolo[1,5-a]pyridin-2-yl}acetic acid (Compound 6)
A solution of conc. HCl (2.3 mL) and AcOH (4.6 mL) is added to 2-cyanomethylpyrazolo[1,5-a]pyridine-4-carboxylic acid (adamantan-1-ylmethyl)amide. The solution is warmed to 60° C. for 20 h. The volatiles are removed under reduced pressure, and the residue is dissolved in 1 M aq. NaOH (10 mL). The solution is washed with Et2O (20 mL). The aqueous layer is acidified to ˜pH 3 with 1 M aq. HCl. The mixture is filtered and the filtrate dried to afford the title compound as a light tan solid. 1H NMR (400 MHz, ((CD3)2SO) δ: 8.71 (d, 1H), 8.40 (bt, 1H), 7.60 (d, 1H), 6.90 (t, 1H), 6.79 (s, 1H), 3.75 (s, 2H), 2.99 (d, 2H), 1.88-1.96 (m, 3H), 1.46-1.70 (m, 12H). LC-MS m/z+H+): 368.3; RT=1.27 min.

reactant | HCl | 2.3 mL | Cl | ClH
reactant | 2-cyanomethylpyrazolo[1,5-a]pyridine-4-carboxylic acid (adamantan-1-ylmethyl)amide | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C=2C=3N(C=CC2)N=C(C3)CC#N | C21H24N4O
reactant | AcOH | 4.6 mL | CC(=O)O | C2H4O2
product | {4-[(Adamantan-1-ylmethyl)carbamoyl]pyrazolo[1,5-a]pyridin-2-yl}acetic acid | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C=2C=3N(C=CC2)N=C(C3)CC(=O)O | C21H25N3O3
